US07045545B1
N-tert-butoxycarbonyl 1-(5-nitrobenzofur-7-yl)-2-aminopropane
A mixture of 1.60 gm (7.27 mMol) 1-(5-nitrobenzofur-7-yl)-2-aminopropane, 1.01 mL (7.27 mMol) triethylamine, and 1.59 gm (7.27 mMol) di-tert-butyl dicarbonate in 60 mL dichloromethane was stirred at room temperature for 18 hours. The reaction mixture was diluted with 60 ml dichloromethane and was then washed sequentially with two 50 mL portions of 0.1 N hydrochloric acid, 50 mL 2.5 N sodium hydroxide, and 25 mL saturated aqueous sodium chloride. The remaining organic phase was then dried over sodium sulfate and concentrated under reduced pressure. The residue was crystallized from diethyl ether to provide 1.72 gm (74%) of the desired compound as a white crystalline solid.

reactant | 1-(5-nitrobenzofur-7-yl)-2-aminopropane | 7.27 mMol, 1.60 gm | [N+](=O)([O-])C=1C=C(C2=C(C=CO2)C1)CC(C)N | C11H12N2O3
reactant | triethylamine | 7.27 mMol, 1.01 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 7.27 mMol, 1.59 gm | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | N-tert-butoxycarbonyl 1-(5-nitrobenzofur-7-yl)-2-aminopropane | 1.72 gm, 74% | C(C)(C)(C)OC(=O)NC(CC1=CC(=CC=2C=COC21)[N+](=O)[O-])C | C16H20N2O5
